US08835626B2
3rd step: 7,7-dimethyl-12,13-dihydro-7H-indolo[3,2-c]acridine
63 g (200 mmol) of 2-[2-(9H-carbazol-1-ylamino)phenyl]propan-2-ol are initially introduced in 268 g (2734 mmol) of polyphosphoric acid under protective gas and cooled to 0° C. The mixture is subsequently stirred at 100° C. for 3 h and then cooled to room temperature. Water is added to the mixture with ice cooling, the mixture is extracted with ethyl acetate, and the solvent is removed in vacuo. The content of product according to 1H-NMR is about 96% with an overall yield of 53 g (90%).

reactant | 2-[2-(9H-carbazol-1-ylamino)phenyl]propan-2-ol | 200 mmol, 63 g | C1(=CC=CC=2C3=CC=CC=C3NC12)NC1=C(C=CC=C1)C(C)(C)O | C21H20N2O
solvent | Water | O | H2O
product | 7,7-dimethyl-12,13-dihydro-7H-indolo[3,2-c]acridine | CC1(C=2C=CC=CC2NC=2C3=C(C=CC12)C=1C=CC=CC1N3)C | C21H18N2
